US03998958
Ethyl 4-benzyloxy-3-chlorobenzoate [c.f., Jones & Robinson, J. Chem. Soc. 3845 (1955)] (32.0 g., 0.11 mole), 25 ml. methanol and 20 ml. 95% hydrazine are stirred under reflux for 8 hours and cooled to room temperature. The mixture is filtered and the resulting solid dried in vacuo to give 29.4 g. 4-benzyloxy- 3-chlorobenzoic acid hydrazide (96.7% yield), m.p. 168°-171° C.

reactant | Ethyl 4-benzyloxy-3-chlorobenzoate | 0.11 mole, 32.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OCC)C=C1)Cl | C16H15ClO3
reactant | hydrazine | NN | H4N2
solvent | methanol | CO | CH4O
product | 4-benzyloxy- 3-chlorobenzoic acid hydrazide | 96.7% yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NN)C=C1)Cl | C14H13ClN2O2
